US08071807B2
Synthesis of {3-[2-tert-Butylsulfanylmethyl-4-(2,2-dimethyl-propionylamino)-phenoxy]-4-hydroxy-phenyl}-acetic acid (Compound 75)
{3-[2-tert-Butylsulfanylmethyl-4-(2,2-dimethyl-propionylamino)-phenoxy]-4-methoxy-phenyl}-acetic acid (0.953 g, 2.07 mmol) in CH2Cl2 was cooled to 0° C. Boron tribromide (1M in CH2Cl2; 6.21 mL, 6.21 mmol) was added, and the reaction was stirred at room temperature for 2 hours. The reaction was quenched, and after aqueous work-up, the crude material was purified by preparative HPLC to give the title compound.

reactant | {3-[2-tert-Butylsulfanylmethyl-4-(2,2-dimethyl-propionylamino)-phenoxy]-4-methoxy-phenyl}-acetic acid | 2.07 mmol, 0.953 g | C(C)(C)(C)SCC1=C(OC=2C=C(C=CC2OC)CC(=O)O)C=CC(=C1)NC(C(C)(C)C)=O | C25H33NO5S
reactant | Boron tribromide | 6.21 mmol, 1M, 6.21 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | {3-[2-tert-Butylsulfanylmethyl-4-(2,2-dimethyl-propionylamino)-phenoxy]-4-hydroxy-phenyl}-acetic acid | C(C)(C)(C)SCC1=C(OC=2C=C(C=CC2O)CC(=O)O)C=CC(=C1)NC(C(C)(C)C)=O | C24H31NO5S
